US08748374B2
(2R,6S,13aS,14aR,16aS,Z)-ethyl 6-(5-methylisoxazole-3-carboxamido)-2-(4-nitrobenzoyloxy)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate
To a solution of (2R,6S,13aS,14aR,16aS,Z)-14a-(ethoxycarbonyl)-2-(4-nitrobenzoyloxy)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-aminium 4-methylbenzenesulfonate (9.95 g), 5-methylisoxazole-3-carboxylic acid (2.12 g), and NMP (30.0 g) at 5° C. was added diisopropylethylamine (6.5 g). Propanephosphonic acid anhydride (5.3 g) was charged as a solution in EtOAc (5.3 g) and NMP (10 mL) to the reaction mixture. The reaction was warmed to rt over 14 h. The reaction solution was diluted with 2-Me-THF (150 mL). The diluted reaction solution was washed with water (150 mL), a 1.0 M aqueous solution of H3PO4 (2×50 mL), water (50 mL), a 5% aqueous solution of NaHCO3 (50 mL), and then a 10% aqueous solution of NaCl (2×50 mL). The organic solution was dried over MgSO4, filtered, and then concentrated under reduced pressure, and then co-distilled with THF (200 mL). THF was added and the product-containing solution was filtered and evaporated to an oil (8.5 g, 93% yield).

reactant | (2R,6S,13aS,14aR,16aS,Z)-14a-(ethoxycarbonyl)-2-(4-nitrobenzoyloxy)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-aminium 4-methylbenzenesulfonate | 9.95 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C(C)OC(=O)[C@]12NC([C@H]3N(C([C@H](CCCCC\C=C/[C@@H]1C2)[NH3+])=O)C[C@@H](C3)OC(C3=CC=C(C=C3)[N+](=O)[O-])=O)=O
reactant | 5-methylisoxazole-3-carboxylic acid | 2.12 g | CC1=CC(=NO1)C(=O)O | C5H5NO3
reactant | NMP | 30.0 g | CN1CCCC1=O | C5H9NO
reactant | diisopropylethylamine | 6.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NMP | 10 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | 5.3 g | CCOC(=O)C | C4H8O2
product | (2R,6S,13aS,14aR,16aS,Z)-ethyl 6-(5-methylisoxazole-3-carboxamido)-2-(4-nitrobenzoyloxy)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate | 8.5 g, 93% yield | CC1=CC(=NO1)C(=O)N[C@H]1CCCCC\C=C/[C@H]2[C@](NC([C@H]3N(C1=O)C[C@@H](C3)OC(C3=CC=C(C=C3)[N+](=O)[O-])=O)=O)(C2)C(=O)OCC | C32H37N5O10
